US05075330
To a solution of 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine (540 mg, 1.57 mmol) in 30 ml of freshly distilled tetrahydrofuran at 0° C. is added dropwise 194 μl (1.88 mmol) of ethoxycarbonyl isocyanate. The reaction mixture is stirred for 10 minutes at 0° C. and concentrated in vacuo. The residue is purified by column chromatography on silica using an ethyl acetate:methylene chloride gradient (15:85 to 1:1). Recrystallization from methylene chloride:hexane gives pure [[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]carbonyl]carbamic acid, ethyl ester (68%); mp 147.5°-148° C.

reactant | 1-(4-chlorobenzoyl)-N-hydroxy-5-methoxy-2-methyl-lH-indole-3-methanamine | 1.57 mmol, 540 mg | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CNO)C)C=C1 | C18H17ClN2O3
reactant | ethoxycarbonyl isocyanate | 1.88 mmol, 194 μl | C(C)OC(=O)N=C=O | C4H5NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [[[[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-lH-indol-3-yl]methyl]hydroxyamino]carbonyl]carbamic acid, ethyl ester | 68% | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CN(C(=O)NC(OCC)=O)O)C)C=C1 | C22H22ClN3O6
